US08802663B2
Step 1: 1-cyclohexyl-5-phenyl-1H-pyrazole-4-carbonitrile
To a solution of 3-oxo-3-phenylpropanenitrile (Avocado; 2.2 g; 15 mmol) in toluene (100 mL) was added DMF.DMA (2.7 mL; 20 mmol) and PPTS (375 mg). The mixture was heated to 90° C. for 4 hours. The solvent was removed in vacuo and DCM (100 mL) and water (100 mL) were added and the mixture passed through a hydrophobic frit. The solvent was removed in vacuo and the residue redissolved in ethanol (95 mL) and water (9.5 mL). This solution was added to a mixture of cyclohexylhydrazine hydrochloride (Fluorochem; 2.26 g; 15 mmol), and sodium acetate (2.46 g; 30 mmol). The mixture was heated to reflux for 24 hours and the ethanol removed in vacuo. DCM (100 mL) and water (50 mL) were added and the mixture was filtered through a hydrophobic frit and the solvent removed in vacuo. The residue was purified by flash chromatography on a Biotage 40+M column, eluting with petrol containing increasing amounts of EtOAc. The residue was triturated with diethyl ether to give the title compound as an off-white solid. 1H NMR: (CDCl3, 400 MHz) δ 7.85 (1H, s), 7.58-7.50 (3H, m), 7.46-7.37 (2H, m), 4.14-4.04 (1H, m), 2.07-1.95 (2H, m), 1.95-1.78 (4H, m), 1.74-1.59 (1H, m), 1.72-0.81 (3H, m). LC/MS: 252 (M+H)+. HPLC (Method B) Rt 4.30 min (Purity: 96.3%).

reactant | 3-oxo-3-phenylpropanenitrile | 15 mmol, 2.2 g | O=C(CC#N)C1=CC=CC=C1 | C9H7NO
reactant | DMA | 20 mmol, 2.7 mL | CC(=O)N(C)C | C4H9NO
reactant | PPTS | 375 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | cyclohexylhydrazine hydrochloride | 15 mmol, 2.26 g | Cl.C1(CCCCC1)NN
reactant | sodium acetate | 30 mmol, 2.46 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-cyclohexyl-5-phenyl-1H-pyrazole-4-carbonitrile | C1(CCCCC1)N1N=CC(=C1C1=CC=CC=C1)C#N | C16H17N3
